US05489593
3,5-Dimethyl-4-hydroxybenzyl chloride (I)
3,5-Dimethyl-4-methoxybenzyl chloride (I, PREPARATION 4, 1.8 g) is added to a solution of boron tribromide (1.5 m) in dichloromethane (70 ml) at 78°. The solution is allowed gradually to warm to 20°-25° overnight. The reaction is poured into an aqueous sodium bicarbonate solution, and the phases are separated. The dichloromethane phase is washed once with water and then with concentrated hydrochloric acid. The dried (sodium sulfate) organic phase is concentrated under reduced pressure to give the title compound.

reactant | 3,5-Dimethyl-4-methoxybenzyl chloride | 1.8 g | CC=1C=C(CCl)C=C(C1OC)C | C10H13ClO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3,5-Dimethyl-4-hydroxybenzyl chloride | CC=1C=C(CCl)C=C(C1O)C | C9H11ClO
